US04048177
2-Amino-3,4-dihydro-3,3-dimethyl-4-phenylquinolin-4-ol
Sodium amide (15 g.) was added portionwise to a stirred solution of 2-aminobenzophenone(19.7g., 0.1 mole) and isobutyronitrile (20.7g., 0.3 mole) in dry ether (500 ml.). The mixture was stirred for 1 hour at room temperature and then heated under reflux for 21/2 hours. After cooling, the mixture was poured onto ice, extracted with ether and the combined extracts washed and dried (MgSO4). The solvent was removed and the residue crystallised from toluene to give a product (10.76g., m.p. 157° - 160° C). Recrystallisation from toluene gave the pure title compound, 9.17g., m.p. 161° - 163° C. [Found: C. 76.75, H, 6.9, N, 10.5%. C17H18N2O requires C, 76.65, H, 6.8, N, 10.5%].

reactant | Sodium amide | 15 g | [NH2-].[Na+]
reactant | 2-aminobenzophenone | 0.1 mole, 19.7g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | isobutyronitrile | 0.3 mole, 20.7g | C(C(C)C)#N | C4H7N
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2-Amino-3,4-dihydro-3,3-dimethyl-4-phenylquinolin-4-ol | NC1=NC2=CC=CC=C2C(C1(C)C)(O)C1=CC=CC=C1 | C17H18N2O
